US08022062B2
4-Acetyl-benzyl bromide
Heat a mixture of 4′-methylacetophenone (5 g, 37.26 mmol), NBS (6.964 g, 39.12 mmol), and AIBN (153 mg, 0.93 mmol) in carbon tetrachloride (120 mL) for 14 h at reflux. Cool to ambient temperature and wash sequentially with water (100 mL), 1M aqueous HCl (100 mL), 5% aqueous NaHCO3 (100 mL) and brine (100 mL). Dry the organic phase over Na2SO4, filter and concentrate in vacuo. Purify the crude mixture by chromatography on silica gel eluting sequentially with hexane and hexane/EtOAc (19:1, 9:1) to provide the title compound as oil (5.191 g, 65%). GC-MS m/z: 213 (M+).

reactant | 4′-methylacetophenone | 37.26 mmol, 5 g | CC1=CC=C(C=C1)C(C)=O | C9H10O
reactant | NBS | 39.12 mmol, 6.964 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | carbon tetrachloride | 120 mL | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | AIBN | 0.93 mmol, 153 mg | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
product | 4-Acetyl-benzyl bromide | 5.191 g, 65% | C(C)(=O)C1=CC=C(CBr)C=C1 | C9H9BrO
